US05457102
A mixture of 3.15 g of 5-(3-chloro-4-nitrophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole (prepared as described in EP-A-0,426,225) and 30 ml of cyclopropanamine was stirred for 30 hours at reflux temperature. The reaction mixture was evaporated and the residue was stirred in water. The product was extracted with dichloromethane and the extract was dried, filtered and evaporated. The residue was co-evaporated with methylbenzene, yielding 3.4 g (99.6%) of (±)-N-cyclopropyl-5-(6,7-dihydro-5-H-pyrrolo[1,2-c]imidazol-5-yl)-2-nitrobenzenamine (interm. 6).

reactant | 5-(3-chloro-4-nitrophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole | 3.15 g | ClC=1C=C(C=CC1[N+](=O)[O-])C1CCC=2N1C=NC2 | C12H10ClN3O2
reactant | cyclopropanamine | 30 ml | C1(CC1)N | C3H7N
product | (±)-N-cyclopropyl-5-(6,7-dihydro-5-H-pyrrolo[1,2-c]imidazol-5-yl)-2-nitrobenzenamine | 3.4 g, 99.6% | C1(CC1)NC1=C(C=CC(=C1)C1CCC=2N1C=NC2)[N+](=O)[O-] | C15H16N4O2
